US06855710B2
(Z)-3-[1-(4-aminomethylcarbonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone-hydrochloride
Prepared analogously to Example 29a from (Z)-3-[1-(4-tert.butoxycarbonylaminomethylcarbonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone and ethyl acetate/hydrogen chloride in dichloromethane.

reactant | (Z)-3-[1-(4-tert.butoxycarbonylaminomethylcarbonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(C)(C)(C)OC(=O)NCC(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C28H28N4O4
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-3-[1-(4-aminomethylcarbonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone-hydrochloride | Cl.NCC(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | InChI=1S/C23H20N4O2.ClH/c24-14-20(28)25-16-10-12-17(13-11-16)26-22(15-6-2-1-3-7-15)21-18-8-4-5-9-19(18)27-23(21)29;/h1-13,26H,14,24H2,(H,25,28)(H,27,29);1H/b22-21-;
